US09290511B2
6-Bromo-5-phenyl-2-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine (0.125 g, 0.25 mmol), acetamide (0.022 g, 0.37 mmol), cesium carbonate (0.163 g, 0.5 mmol), xantphos (0.022 g, mol %), Pd2(dba)3 (0.010 g, 5 mol %) and MeCN (2 mL) were combined and heated to 150° C. for 30 minutes. The reaction was diluted with DCM (10 mL), washed with water (10 mL), passed through a hydrophobic frit and concentrated at reduced pressure. The resulting residue was purified by basic prep HPLC to afford N-[5-phenyl-2-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidin-6-yl]acetamide (22 mg). LCMS [M+H]+=480.2

reactant | 6-Bromo-5-phenyl-2-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine | 0.25 mmol, 0.125 g | BrC1=C(C2=C(N=C(N=C2)N2CCC(CC2)COCCN2CCCC2)S1)C1=CC=CC=C1 | C24H29BrN4OS
reactant | acetamide | 0.37 mmol, 0.022 g | C(C)(=O)N | C2H5NO
reactant | cesium carbonate | 0.5 mmol, 0.163 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | xantphos | 0.022 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.010 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | MeCN | 2 mL | CC#N | C2H3N
product | N-[5-phenyl-2-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidin-6-yl]acetamide | 22 mg | C1(=CC=CC=C1)C1=C(SC=2N=C(N=CC21)N2CCC(CC2)COCCN2CCCC2)NC(C)=O | C26H33N5O2S
